US07981879B2
Step 5: tert-butyl 2-{[(4-fluoro-3-methylbenzyl)amino]carbonyl}-3-hydroxy-10-(methylamino)-4-oxo-6,7,9,10-tetrahydropyrimido[1,2-d][1,4]diazepine-8(4H)-carboxylate
8-tert-butyl 2-methyl 10-[benzyl(methyl)amino]-3-hydroxy-4-oxo-6,7,9,10-tetrahydropyrimido[1,2-d][1,4]diazepine-2,8(4H)-dicarboxylate prepared as described in Step 4, was dissolved in MeOH, treated with 1 N HCl (1 eq.) and stirred overnight under an H2 atmosphere in the presence of 10% Pd/C. The catalyst was filtered off through celite, and the filtrate was concentrated under reduced pressure. MS (ES) C16H24N4O6 requires 368. Found: 369 (M+H+). The crude organic product was taken in methanol and treated with 1.2 eq. of 4-fluoro-3-methyl-benzylamine and resulting mixture was refluxed overnight. After cooling to room temperature, evaporation of volatiles under reduced pressure yielded title product which was directly taken in the next step. MS (ES) C23H30FN5O5 requires 475. Found: 476 (M+H+).

reactant | 8-tert-butyl 2-methyl 10-[benzyl(methyl)amino]-3-hydroxy-4-oxo-6,7,9,10-tetrahydropyrimido[1,2-d][1,4]diazepine-2,8(4H)-dicarboxylate | C(C1=CC=CC=C1)N(C1C=2N(CCN(C1)C(=O)OC(C)(C)C)C(C(=C(N2)C(=O)OC)O)=O)C | C23H30N4O6
reactant | HCl | 1 N, 1 eq. | Cl | ClH
reactant | 4-fluoro-3-methyl-benzylamine | 1.2 eq. | FC1=C(C=C(CN)C=C1)C | C8H10FN
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 2-{[(4-fluoro-3-methylbenzyl)amino]carbonyl}-3-hydroxy-10-(methylamino)-4-oxo-6,7,9,10-tetrahydropyrimido[1,2-d][1,4]diazepine-8(4H)-carboxylate | FC1=C(C=C(CNC(=O)C=2N=C3N(CCN(CC3NC)C(=O)OC(C)(C)C)C(C2O)=O)C=C1)C | C23H30FN5O5
